US04705791
1(4-Chlorophenylsulfinyl)methyl-5-chloropyrimidin-2-one
Potassium tert-butoxide (4 mmol) in DMF (10 ml) was added to a solution of 5-chloropyrimidin-2-one (4 mmol) in DMF (40 ml). The mixture was stirred at room temperature for 10 min before 1-bromomethylsulfinyl-4-chlorobenzene (see Preparation 5) (4 mmol) was added. The resultant mixture was stirred at 60° C. for 2 days, the solvent distilled off at reduced pressure, the residue triturated with water, the insoluble material dried and washed with a little chloroform before recrystallization from DMSO; the crystalline material was also washed with a little methanol and finally with water; yield 0.30 g (25%), m.p. 262° C. (Found: C43.63; H2.68. Calc. for C11H8Cl2N2O2S: C43.59; H2.67)1H NMR (DMSO-d6): δ 5.12 (CH2), 7.60 (Ph, b.s.), 8.19 and 8.62 (H-4, H-6, d, J 4 Hz). IR (KBr): 1660 (CO), 1060 cm-1 (SO) MS (70 eV; m/e (rel int. %): 302 (0.5, M), 159 (6), 145 (33), 143 (100).

reactant | Potassium tert-butoxide | 4 mmol | CC(C)([O-])C.[K+]
reactant | 5-chloropyrimidin-2-one | 4 mmol | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | 1-bromomethylsulfinyl-4-chlorobenzene | 4 mmol | BrCS(=O)C1=CC=C(C=C1)Cl | C7H6BrClOS
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1(4-Chlorophenylsulfinyl)methyl-5-chloropyrimidin-2-one | ClC1=CC=C(C=C1)S(=O)CN1C(N=CC(=C1)Cl)=O | C11H8Cl2N2O2S
